US06365747B1
(b) 4,4-Dimethyl-2-(1-oxo-1,3-dihydroisobenzofuran-5-yl)oxazoline
To stirred thionyl chloride (800 ml), at 0° C., 2-[[(1-oxo-1,3-dihydroisobenzofuran-5-yl)carbonyl]amino]-2-methyl-1-propanol (560 g, 2.25 mol) is added portionwise while maintaining the temperature below 10° C. The temperature is allowed to rise, and then the mixture is heated between 28-30° C. for 5 hours. The thionyl chloride is destined off under reduce pressure at 60° C. The residue is taken up in toluene (2×700 ml) and concentrated under reduce pressure at 60° C. The solid is filtered off, washed with toluene (2×100 ml) and dried at in vacuo. The product is suspended in deionized water (3000 ml). The suspension is cooled and pH is adjusted to basic pH by addition of 28% aqueous ammonia (1000 ml). The product is filtered off, washed with deionized water, and dried at 50° C. in vacuo. Yield: 407 g (78%) having m.p.=109-111° C. and purity (HPLC, peak area)≧95%.

reactant | thionyl chloride | 800 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-[[(1-oxo-1,3-dihydroisobenzofuran-5-yl)carbonyl]amino]-2-methyl-1-propanol | 2.25 mol, 560 g | O=C1OCC2=CC(=CC=C12)C(=O)NC(CO)(C)C | C13H15NO4
solvent | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
product | 4,4-Dimethyl-2-(1-oxo-1,3-dihydroisobenzofuran-5-yl)oxazoline | CC1(N=C(OC1)C=1C=C2COC(C2=CC1)=O)C | C13H13NO3
